US08114872B2
tert-Butyl 1-(4-iodo-6-methylpyridin-3-yl)ethylcarbamate
Add a solution of tert-butyl 1-(6-methylpyridin-3-yl)ethylcarbamate (6.85 g, 29 mmol) to a solution of tert-butyllithium (51.1 mL, 87 mmol) in THF (70 mL) at −78° C. in THF (20 mL) under N2 using a double-tipped needle. After 30 min, add iodine (11.0 g, 43.5 mmol) in THF (25 mL) over 30 min at −78° C. Stir for 1 h and then warm up to RT. Quench with water, extract in ethyl acetate, wash with saturated aqueous sodium chloride, and dry over Na2SO4. Purify on column chromatography 5% to 50% ethyl acetate in hexanes to obtain the title compound (620 mg). MS (ES) m/z 363 [M+1]+.

reactant | tert-butyl 1-(6-methylpyridin-3-yl)ethylcarbamate | 29 mmol, 6.85 g | CC1=CC=C(C=N1)C(C)NC(OC(C)(C)C)=O | C13H20N2O2
reactant | tert-butyllithium | 87 mmol, 51.1 mL | C(C)(C)(C)[Li]
reactant | iodine | 43.5 mmol, 11.0 g | II | I2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-Butyl 1-(4-iodo-6-methylpyridin-3-yl)ethylcarbamate | 620 mg | IC1=C(C=NC(=C1)C)C(C)NC(OC(C)(C)C)=O | C13H19IN2O2
